US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4,4′-difluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one (1.0 g, 2.0 mmol) in 1,4-dioxane (6 mL) was added (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (509 mg, 2.4 mmol), [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) (82 mg, 5 mol %) and aq. potassium hydroxide (1.3 mL, 3M, 2 eq.). The reaction mixture was purged with nitrogen and then sealed in a microwave vessel. The reaction vessel was subject to microwave irradiation at 150° C. for 40 min. Crude mixture was worked up with water. Volatiles were evaporated. The resulting mixture was extracted with EtOAc. The combined extracts were dried over Na2SO4. The resulting purple residue was purified by SiO2 (Biotage 40+M cartridge, eluted by EtOAc/hexane, gradient; 5% to 25%). The titled compound was obtained as clear solid. LC-MS:588.23 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 6:4 mixture of rotamers δ 7.85 (s, 1H), 7.69 (s, 2H), 7.16-7.21 (m, 1.5H), 7.04-7.13 (m, 1.5H), 6.96 (dd, J=14.3, 8.80 Hz, 1H), 6.65 (d, J=10.0 Hz, 1H), 5.59 (d, J=8.0 Hz, 0.6H), 5.43 (d, J=8.0 Hz, 0.4H), 4.85 (d, J=15.8 Hz, 0.6H), 4.82 (d, J=15.8 Hz, 0.4H), 4.02 (d, J=15.8 Hz, 0.6H), 3.85 (m, 0.6H), 3.76-3.81 (m, 0.8H), 3.75 (s, 1.8H), 3.73 (s, 1.2H), 3.19 (m, 1H), 1.14-1.26 (m, 6H), 0.56 (d, J=6.6 Hz, 1.2H), 0.38 (d, J=6.6 Hz, 1.8H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one | 2.0 mmol, 1.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)F)Br)C)(F)F | C19H13BrF7NO2
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 2.4 mmol, 509 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | potassium hydroxide | 3M, 1.3 mL, 2 eq. | [OH-].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) | 82 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4,4′-difluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)F)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25F8NO3
